US07432260B2
N-{5-[2-(4-Methoxy-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-3-(4-methyl-piperazin-1-yl)-propionamide [40].
By treatment of 3-bromo-N-{5-[2-(4-methoxyphenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-propionamide with 1-methyl-piperazine. Anal. RP-HPLC: tR=13.0 min (0-60% MeCN, purity>94%). 1H-NMR (DMSO-D6) δ: 1.17 (m, 2H, CH2), 2.11 (m, 2H, CH2), 2.48 (m, 4H, CH2), 2.57 (s, 3H, CH3), 3.28 (s, 3H, CH3), 3.30 (m, 4H, CH2), 3.72 (s, 3H, CH3), 6.85 (m, 2H, Ph-H), 6.97 (m, 1H, pyrimidinyl-H), 7.63 (m, 2H, Ph-H), 8.38 (d, 1H, J=5.1 Hz, pyrimidinyl-H). MS (ESI+) m/z 468.57 [M+H]+ (C23H26N7SO2 requires 467.59).

reactant | 3-bromo-N-{5-[2-(4-methoxyphenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-propionamide | BrCCC(=O)NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)OC | C18H18BrN5O2S
reactant | 1-methyl-piperazine | CN1CCNCC1 | C5H12N2
solvent | MeCN | CC#N | C2H3N
product | N-{5-[2-(4-Methoxy-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-3-(4-methyl-piperazin-1-yl)-propionamide | COC1=CC=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C(S1)NC(CCN1CCN(CC1)C)=O)C | C23H29N7O2S
